US06248739B1
A flask containing N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-thiopyran-4-amine (0.44 g) is treated with diethyl ethoxymethylenemalonate (0.35 mL). The flask is tightly capped and heated to 160° C. for 2 hours. The reaction is cooled to room temperature, treated with diethyl ethoxymethylenemalonate (0.35 mL) and pyridine (0.35 mL) and heated to 150° C. for 1 hour in a tightly sealed flask. The reaction is cooled to room temperature and azeotroped under reduced pressure with toluene (3×). The residue is flash column chromatographed on silica gel eluting with ethyl acetate. The product-containing fractions are evaporated to give 0.59 g of diethyl 2-{[4-(4-morpholinylmethyl)(tetrahydro-2H-thiopyran-4-yl)anilino]methylene}malonate as a tan solid.

reactant | N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-thiopyran-4-amine | 0.44 g | N1(CCOCC1)CC1=CC=C(C=C1)NC1CCSCC1 | C16H24N2OS
reactant | diethyl ethoxymethylenemalonate | 0.35 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diethyl ethoxymethylenemalonate | 0.35 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | pyridine | 0.35 mL | N1=CC=CC=C1 | C5H5N
product | diethyl 2-{[4-(4-morpholinylmethyl)(tetrahydro-2H-thiopyran-4-yl)anilino]methylene}malonate | 0.59 g | N1(CCOCC1)CC1=CC=C(N(C2CCSCC2)C=C(C(=O)OCC)C(=O)OCC)C=C1 | C24H34N2O5S
